US04281117
This invention relates to a process for the preparation of 7-amino-3-chloro-3-cephem-4-carboxylic acid and esters thereof and to useful intermediates. In particular, it relates to a process for preparing the 3-chloro nucleus which comprises reacting a 7-amino-3-hydroxy-3-cephem ester with a chlorinating agent, for example phosphorus trichloride, in dimethylformamide to produce a 7β-[(dimethylaminomethylene)amino]-3-chloro-3-cephem ester which, on reaction with a carboxylic acid, a percarboxylic acid, or a phenol having a pH in water of between about 2.0 and about 5, forms the corresponding 7β-formamido-3-chloro ester. The product is obtained as an isomeric mixture of 7β-formamido-3-chloro-3-cephem and the corresponding 2-cephem when the 7-amidino-3-chloro intermediate is reacted with a weakly acidic carboxylic acid or with a phenol.

reactant | 7-amino-3-chloro-3-cephem-4-carboxylic acid | NC1[C@@H]2N(C(=C(CS2)Cl)C(=O)O)C1=O | C7H7ClN2O3S
reactant | phosphorus trichloride | P(Cl)(Cl)Cl | Cl3P
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 7β-formamido-3-chloro-3-cephem | C(=O)N[C@H]1[C@@H]2N(C=C(CS2)Cl)C1=O | C7H7ClN2O2S
